US07345056B2
12-(4-Chloro-benzenesulfonyl)-4,5,10,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene (204 mg, 0.602 mmol) was dissolved in pyridine (1 mL) and cooled to 0° C. Methyl chloroformate (0.139 mL, 1.80 mmol) was added over 15 minutes and the resulting solution was stirred at room temperature for 2 h. The reaction mixture was diluted with methylene chloride (10 mL), washed with aqueous HCl (5 mL, 1 N) and aqueous NaHCO3 (5 mL), dried (Na2SO4), filtered and concentrated under vacuum to give 275 mg of 12-(4-chloro-benzenesulfonyl)-4,5,10,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene-5,10-dicarboxylic acid dimethyl ester as a brown oil. Retention time (min)=1.704, method [1], MS(ESI) 455.1 (M+H).

reactant | 12-(4-Chloro-benzenesulfonyl)-4,5,10,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene | 0.602 mmol, 204 mg | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C=3C=NNC3CC1CNC2 | C14H15ClN4O2S
reactant | Methyl chloroformate | 1.80 mmol, 0.139 mL | ClC(=O)OC | C2H3ClO2
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 12-(4-chloro-benzenesulfonyl)-4,5,10,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene-5,10-dicarboxylic acid dimethyl ester | 275 mg | COC(=O)N1N=CC=2C3CN(CC(CC12)N3S(=O)(=O)C3=CC=C(C=C3)Cl)C(=O)OC | C18H19ClN4O6S
